Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Diffuse rash
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y.o M with history of Meckel's diverticulum s/p resection,
chronic dermatitis not seen by dermatology in recent years,
presenting with two days of increased whole body rash and one 
day
of nausea and vomiting. 

Patient reports a chronic rash, which has persisted over many
years.  He reports that his rash is typically on the back of his
legs and around his elbows.  Approximately 3 weeks ago, he
reports some of the lesions on his arms "directed" oozing. 
Ultimately 3 days ago he had a significant increase in the rash
of his neck, back,.  He really presented to ___ with
steroids.  He was able to get them filled because of the holiday
weekend, which caused a significant amount of anxiety.  Next 
day,
he went to another pharmacy which was also closed.  He reports 
at
that time he became nauseous, he vomited ×1, and then became
angry and agitated.

In the ED, initial VS were 97.5 72 153/72 16 100% RA. 
CT A/P significant for prominent but not pathologically enlarged
lymph nodes in the inguinal, pelvic, and retroperitoneal chains
that are nonspecific and could be reactive. No other acute
intraabdominal process. 
CBC with mildly elevated WBC of 11.0, H/H of 15.5/44.6, Plt 250.
BMP WNL with Cr of 1.0. LFTS WNL. Uric acid 8.0. Lactate 1.3.  
He was given IV Benadryl and hydrocortisone cream. 

Upon arrival to the floor, the patient tells the story as
follows.  He otherwise denies fevers, weight loss, runny nose,
sore throat, chest pain, abdominal pain.  He reports a chronic
cough which has not changed recently.  He reports that his rash
is extremely itchy, which has improved significantly with
Benadryl.  He reports that he will often scratches which he 
feels
makes the lesions worse.  He otherwise denies new exposures or
new detergents.  He reports that his rash often worsens in times
of stress.

Note, CT abdomen and pelvis is obtained in the ED due to nausea
and vomiting.  It is read as prominent but not pathologically
enlarged lymph nodes, likely reactive.  Due to possible
misunderstanding about the ED provider thinking he had a history
___ cell carcinoma, as opposed to Meckel's diverticulum,
there is some concern for ongoing malignancy desired to admit 
for
ongoing care evaluation.  Patient reports that in the ED, he 
felt
that he was being misunderstood.  Once some providers told him
they were worried about cancer, he became upset and agitated,
extremely anxious, crying about the potential diagnosis.
 
Past Medical History:
- Meckel's diverticulum s/p resection
- Atopic dermatitis
- Bilateral hernia repair in infancy
 
Social History:
___
Family History:
His mother has eczema or psoriasis. 
His father has eczema.
 
Physical Exam:
Admission exam:
VITALS: 98.1 PO 134/65 L Sitting 68 18 99 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Mucous membranes moist with no lesion or erythema of the
oropharynx
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
GU: no palpable inguinal lymph nodes
SKIN: Diffusely affecting the upper and lower extremities, large
erythematous patches with some crusting, maculopapular erythema
of the posterior back
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

Discharge exam:
VS: T 97.7, HR 65, BP 125/71, RR 18, SpO2 98% on RA
Gen: NAD, breathing room air comfortably
HEENT: mmm, OP clear
Pulm: CTAB
CV: NR/RR, no m/r/g
Abd: Soft, ND, NTTP, normoactive bowel sounds
Ext: No ___ edema, 2+ DP pulses b/l
Skin: Erythematous maculpapular patches with scaling and 
crusting involving the truck, upper back, and upper and lower 
extremities
Neuro: alert, oriented x3, face midline, MAE spontaneously
Psych: normal affect

 
Pertinent Results:
___ 04:30PM BLOOD WBC-8.7 RBC-4.45* Hgb-13.7 Hct-40.4 
MCV-91 MCH-30.8 MCHC-33.9 RDW-12.8 RDWSD-42.6 Plt ___

___ 04:00PM BLOOD Glucose-103* UreaN-4* Creat-1.0 Na-140 
K-4.5 Cl-101 HCO3-25 AnGap-14

CT abdomen/pelvis without contrast, ___:
IMPRESSION: 
1. No specific acute intra-abdominal process to explain the 
patient's 
abdominal symptoms. 
2. Prominent but not pathologically enlarged lymph nodes in the 
left inguinal 
region, as well as within the pelvis and retroperitoneum are 
nonspecific, and could be reactive given the patient's history 
systemic symptoms and mild leukocytosis. 

 
Brief Hospital Course:
# Acute exacerbation of atopic dermatitis: 
Patient with a history of chronic dermatitis, presenting with 
diffuse erythematous pruritus rash. Per dermatology, based on 
the clinical history and morphologic features, most likely 
suspect flare of atopic dermatitis vs less likely
psoriatic flare. Dermatology recommended betamethasone diprolene 
.05% ointment to be applied to the extremities and trunk BID for 
the next ___ days. He has follow up with dermatology scheduled 
for ___.

# Prominent lymphadenopathy: Note, CT abdomen pelvis shows
prominent but not toxic neurologically enlarged lymph nodes in
the inguinal, pelvic, and retroperitoneal chains.  Given
otherwise normal labs and ongoing exanthem rash which could
result in reactive lymphadenopathy, there is no concern for 
active
malignancy at this time.

# Lack of health insurance
The patient was provided information about obtaining health 
insurance and said he would follow through with this prior to 
his dermatology appointment. He was referred to a primary care 
doctor as well.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Betamethasone Dipro 0.05% Augmented Gel 1 Appl TP BID  
2.  DiphenhydrAMINE 25 mg PO Q6H:PRN itchiness  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atopic dermatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because of a diffuse rash. 
Dermatology saw you and thought that it was most likely a flare 
of atopic dermatitis (eczema). They recommended using 
betamethasone Diprolene 0.05% ointment to be applied to the 
extremities and trunk twice a day for the next ___ days. 
They would like to see you in ___ clinic for follow up 
on ___ at 11am.
 
Followup Instructions:
___